US04512999
A solution of 7.8 g of methylene-6,7-dioxo-3,3-dimethyl-4-thia-1-azabicyclo[3.2.0]heptane-2-carboxylate pivalate in 200 ml of benzene is treated at room temperature with 10 g of triphenylphosphinemethylacetylmethylene. After 10 minutes, the reaction mixture is evaporated. The residue is chromatographed on silica gel while eluting with cyclohexane/ethyl acetate (6:4). There is obtained methylene-(2S,5R)-3,3-dimethyl-6-(1-methyl-2-oxopropylidene)-7-oxo-4-thia-1-azabicyclo[3.2.0]heptane-2-carboxylate pivalate as white crystals of melting point 59°-60° [Rf: 0.30; cyclohexane/ethyl acetate (6:4)].

reactant | methylene-6,7-dioxo-3,3-dimethyl-4-thia-1-azabicyclo[3.2.0]heptane-2-carboxylate pivalate | 7.8 g | C(C(C)(C)C)(=O)O.C=S1C(C(N2C(C(C12)=O)=O)C(=O)O)(C)C
reactant | benzene | 200 ml | C1=CC=CC=C1 | C6H6
product | methylene-(2S,5R)-3,3-dimethyl-6-(1-methyl-2-oxopropylidene)-7-oxo-4-thia-1-azabicyclo[3.2.0]heptane-2-carboxylate pivalate | C(C(C)(C)C)(=O)O.C=S1C([C@@H](N2C(C([C@@H]12)=C(C(C)=O)C)=O)C(=O)O)(C)C | InChI=1S/C13H17NO4S.C5H10O2/c1-6(7(2)15)8-10(16)14-9(12(17)18)13(3,4)19(5)11(8)14;1-5(2,3)4(6)7/h9,11H,5H2,1-4H3,(H,17,18);1-3H3,(H,6,7)/t9-,11+,19?;/m0./s1
